US07858621B2
N-Methoxy-2-(3-methoxy-propyl)-N-methyl-6-trifluoromethyl-nicotinamide (156 mg, 0.509 mmol) was reacted with 1M-LAH in THF solution to give 2-(3-methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde quantitatively as oil. The crude product was used directly in the following reaction. 2-(3-Methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde was reacted with methyl(triphenylphosphoranylidene)acetate (204 mg, 0.61 mmol) to give 3-[2-(3-methoxy-propyl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid methyl ester (124 mg, 80%).

reactant | N-Methoxy-2-(3-methoxy-propyl)-N-methyl-6-trifluoromethyl-nicotinamide | 0.509 mmol, 156 mg | CON(C(C1=C(N=C(C=C1)C(F)(F)F)CCCOC)=O)C | C13H17F3N2O3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde | COCCCC1=NC(=CC=C1C=O)C(F)(F)F | C11H12F3NO2
